US04752635
1.26 g of 1-phenyl-2,2,2-trifluoroethyl α-chloroacrylate, 0.74 g of methacrylnitrile, 0.52 ml of a benzene solution containing 0.1 wt % of azobisisobutyronitrile and 1.75 ml of benzene were introduced into a flask, and the flask was evacuated by vacuuming in a usual manner. The mixture in the flask was stirred at 70° C. for 20 hours, and then the reaction product was poured into methanol. The polymer was permitted to precipitate, then subjected to filtration and dried to obtain a 1-phenyl-2,2,2-trifluoroethyl α-chloroacrylate/methacrylnitrile copolymer. The copolymerization ratio was found to be 50/50 by molar ratio as a result of the elemental analysis. The weight average molecular weight was found to be 4.0×105 as calculated as polystyrene, as a result of the GPC measurement.

reactant | 1-phenyl-2,2,2-trifluoroethyl α-chloroacrylate | 1.26 g | ClC(C(=O)OC(C(F)(F)F)C1=CC=CC=C1)=C | C11H8ClF3O2
reactant | methacrylnitrile | 0.74 g | C(C(=C)C)#N | C4H5N
reactant | azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | benzene | 1.75 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 0.52 ml | C1=CC=CC=C1 | C6H6
product | 1-phenyl-2,2,2-trifluoroethyl α-chloroacrylate methacrylnitrile | ClC(C(=O)OC(C(F)(F)F)C1=CC=CC=C1)=C.C(C(=C)C)#N | InChI=1S/C11H8ClF3O2.C4H5N/c1-7(12)10(16)17-9(11(13,14)15)8-5-3-2-4-6-8;1-4(2)3-5/h2-6,9H,1H2;1H2,2H3
